US06465508B1
N-(4-Hydroxybutyl)-1,3-benzodioxole-5-carboxamide
1,3-Benzodioxole -5-carboxylic acid (2.0 g, 12.0 mmol) and 4-amino-1-butanol (1.4 ml, 15.6 mmol) were coupled according to the procedure of Example 17 to 2.1 g (75% yield) of a pale yellow solid. MP 95-98° C.; 1H N (DMSO-d6): δ1.38-1.65 (m, CH2, CH2), 3.31 (q, CH2), 3.39 (q, CH2), 4.39 (t, NH), 6.08 (s, CH2), 6.98 (d, 1 Ar H), 7.37 (d, 1 Ar H), 7.4 (d-d, 1 Ar H), 8.27 (t, NH) Electrospray Mass Spec: m/z 238.2 (M+H)+.

reactant | 1,3-Benzodioxole -5-carboxylic acid | 12.0 mmol, 2.0 g | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 4-amino-1-butanol | 15.6 mmol, 1.4 ml | NCCCCO | C4H11NO
product | N-(4-Hydroxybutyl)-1,3-benzodioxole-5-carboxamide | 17 to 2.1 g, 75% yield | OCCCCNC(=O)C1=CC2=C(OCO2)C=C1 | C12H15NO4
